US09376449B2
To a mixture of 3-(2-acetamidoethyl)-6-fluoro-5-methoxy-1H-indole-2-carboxylic acid (200 mg), ammonium chloride (110 mg), 1-hydroxybenzotriazole (140 mg), and acetonitrile (4.00 mL) were added triethylamine (0.300 mL) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (200 mg), followed by stirring at room temperature overnight. To the mixture was added an aqueous sodium hydrogen carbonate solution, followed by extraction with chloroform, and the organic layer was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform:methanol=96:4 to 9:1). To the obtained crude product was added ethyl acetate, followed by heating. Then, diisopropylether was added thereto, followed by stirring at room temperature. The resulting solid was collected by filtration and dried under reduced pressure to obtain 3-(2-acetamidoethyl-6-fluoro-5-methoxy-1H-indole-2-carboxamide (153 mg) as a white solid.

reactant | 3-(2-acetamidoethyl)-6-fluoro-5-methoxy-1H-indole-2-carboxylic acid | 200 mg | C(C)(=O)NCCC1=C(NC2=CC(=C(C=C12)OC)F)C(=O)O | C14H15FN2O4
reactant | ammonium chloride | 110 mg | [Cl-].[NH4+]
reactant | 1-hydroxybenzotriazole | 140 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 200 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | diisopropylether | C(C)(C)OC(C)C | C6H14O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.300 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 4.00 mL | C(C)#N | C2H3N
product | 2-acetamidoethyl-6-fluoro-5-methoxy-1H-indole-2-carboxamide | 153 mg | C(C)(=O)NCCN1C(=CC2=CC(=C(C=C12)F)OC)C(=O)N | C14H16FN3O3
